US06235731B1
2) Synthesis of N-[4-(4-benzylpiperidin-1-yl)butan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride
To a solution of 2.00 g (4.48 mM) of N-[4-(4-benzylpiperidin-1-yl)butan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol (20 ml) was added 10 ml (40 mM) of 4N-HCl/methanol at room temperature and the mixture was stirred at room temperature for several minutes. After the solvent was distilled off under reduced pressure, diethyl ether was added to the residue and the mixture was cooled to 0° C. The resulting crystals were collected by filtration and rinsed with ethanol and diethyl ether to provide the title compound as orange-colored crystals.

reactant | N-[4-(4-benzylpiperidin-1-yl)butan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 4.48 mM, 2.00 g | C(C1=CC=CC=C1)C1CCN(CC1)CCCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C26H30N4OS
reactant | HCl methanol | Cl.CO
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N-[4-(4-benzylpiperidin-1-yl)butan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)C1CCN(CC1)CCCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C26H30N4OS.2ClH/c31-26(23-18-22-19-28-24-9-6-10-25(32-23)30(22)24)27-13-4-5-14-29-15-11-21(12-16-29)17-20-7-2-1-3-8-20;;/h1-3,6-10,18-19,21H,4-5,11-17H2,(H,27,31);2*1H
